US03991202
1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]3-n-octylimidazolium bromide;
mp. 141.5°-143° C., from 1-[2,4dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole and n-octyl bromide after an overnight reflux.

reactant | 1-[2,4dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | n-octyl bromide | C(CCCCCCC)Br | C8H17Br
product | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]3-n-octylimidazolium bromide | [Br-].ClC1=C(C(C[N+]2=CN(C=C2)CCCCCCCC)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C26H31Cl4N2O.BrH/c1-2-3-4-5-6-7-12-31-13-14-32(19-31)17-26(23-11-10-22(28)16-25(23)30)33-18-20-8-9-21(27)15-24(20)29;/h8-11,13-16,19,26H,2-7,12,17-18H2,1H3;1H/q+1;/p-1
